US07399775B2
2-[(2,5-Difluorophenyl)-hydroxymethyl]-3-methoxypyridine
Under an argon atmosphere, a tetrahydrofuran solution (1.5 ml, 3 mmol) of isopropylmagnesium chloride was added dropwise to a tetrahydrofuran (2 ml) solution of 2-bromo-3-methoxypyridine (564 mg, 3 mmol) under ice cooling. The resulting mixture was stirred at room temperature for 60 minutes. Under ice cooling, 2,5-difluorobenzaldehyde (328 μl, 3 mmol) was added dropwise to the resulting brown solution. The temperature of the reaction mixture was raised gradually to room temperature. To the reaction mixture was added a saturated aqueous solution of ammonium chloride, followed by extraction with ethyl acetate. The solvent was dried, followed by concentration under reduced pressure to yield needle crystals. The resulting needle crystals were triturated with hexane, whereby the title compound (660 mg, 88%) was obtained.

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 2-bromo-3-methoxypyridine | 3 mmol, 564 mg | BrC1=NC=CC=C1OC | C6H6BrNO
reactant | 2,5-difluorobenzaldehyde | 3 mmol, 328 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mmol, 1.5 ml | O1CCCC1 | C4H8O
product | 2-[(2,5-Difluorophenyl)-hydroxymethyl]-3-methoxypyridine | FC1=C(C=C(C=C1)F)C(C1=NC=CC=C1OC)O | C13H11F2NO2
